US07345180B2
2-Methylpropane-1,2-diamine (5.0 g) was dissolved in dichloromethane (200 ml) and stirred for 15 minutes at 0° C. A solution of BOC-ON (15 g) in dichloromethane (60 ml) was added dropwise thereto and then stirred for 2 hours at room temperature. The reaction mixture was diluted with chloroform with ice cooling and then acidified by 10% citric acid solution, and the organic phase was separated. The aqueous phase was alkalinized by 5 N sodium hydroxide solution, then extracted with ethyl acetate, and the extract was dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give t-butyl (2-amino-2-methyl-1-propyl)carbamate (7.9 g, Y.:74%).

reactant | 2-Methylpropane-1,2-diamine | 5.0 g | CC(CN)(C)N | C4H12N2
reactant | BOC-ON | 15 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | t-butyl (2-amino-2-methyl-1-propyl)carbamate | 7.9 g, 74% | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
